US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (40.0 mg, 0.0974 mmol) was dissolved in acetonitrile (3 mL), and the solution was treated with isonipecotamide (154 mg, 1.20 mmol), acetic acid (0.896 mL, 15.7 mmol) and sodium triacetoxyborohydride (188 mg, 0.887 mmol). The reaction mixture was added with water and sodium carbonate to adjust the pH to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-methoxycarbonylpiperidinomethyl)indol-2-yl]isoindolinone (35.5 mg, yield 70%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0974 mmol, 40.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | isonipecotamide | 1.20 mmol, 154 mg | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | acetic acid | 15.7 mmol, 0.896 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.887 mmol, 188 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-methoxycarbonylpiperidinomethyl)indol-2-yl]isoindolinone | 35.5 mg, yield 70% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C)=O | C29H32ClN3O5
